US05298479
This example illustrates the preparation of Compound Number 53. To a suspension of magnesium (1.4 g, 58 mmol) in anhydrous ether (40 mL) containing several iodine crystals was added dropwise a solution of 2-bromothiophene (10 g, 62 mmol) in anhydrous ether (20 mL). The reaction was exothermic; the mixture was stirred at ambient temperature for 1.5 h. The resulting Grignard reagent was cooled to 0°-5° C. and a solution of methyl 2-(difluoromethyl)-5-formyl-4-(2-methylpropyl)-6-(trifluoromethyl)-3-pyridinecarboxylate (6.8 g, 20 mmol) in anhydrous ether (20 mL) was added. The mixture was stirred for 2 h, poured into iced water, and acidified with conc. HCl. The organic layer was separated, washed with water and brine, dried (MgSO4), and conc. The residue was eluted on a silica gel column with 15% ethyl acetate/cyclohexane to yield 6.6 g of methyl 2-(difluoromethyl)-5-(hydroxy-2-thienylmethyl)-4-(2-methylpropyl)-6-(trifluoromethyl)-3-pyridinecarboxylate, a 77.6 % yield. m.p. 78°-88° C.

reactant | magnesium | 58 mmol, 1.4 g | [Mg] | Mg
reactant | iodine crystals | II | I2
reactant | 2-bromothiophene | 62 mmol, 10 g | BrC=1SC=CC1 | C4H3BrS
reactant | methyl 2-(difluoromethyl)-5-formyl-4-(2-methylpropyl)-6-(trifluoromethyl)-3-pyridinecarboxylate | 20 mmol, 6.8 g | FC(C1=NC(=C(C(=C1C(=O)OC)CC(C)C)C=O)C(F)(F)F)F | C14H14F5NO3
reactant | HCl | Cl | ClH
solvent | ether | 40 mL | CCOCC | C4H10O
solvent | ether | 20 mL | CCOCC | C4H10O
solvent | ether | 20 mL | CCOCC | C4H10O
solvent | water | O | H2O
product | methyl 2-(difluoromethyl)-5-(hydroxy-2-thienylmethyl)-4-(2-methylpropyl)-6-(trifluoromethyl)-3-pyridinecarboxylate | 6.6 g, 77.6 % yield | FC(C1=NC(=C(C(=C1C(=O)OC)CC(C)C)C(C=1SC=CC1)O)C(F)(F)F)F | C18H18F5NO3S
